US08193164B2
Intermediate YA N-{(1S,2R,3S,4R)-4-[2-(3-Amino-prop-1-ynyl)-6-((S)-1-hydroxymethyl-2-phenyl-ethylamino)-purin-9-yl]-2,3-dihydroxy-cyclopentyl}-2-hydroxy-acetamide
{3-[9-[(1R,2S,3R,4S)-2,3-Dihydroxy-4-(2-hydroxy-acetylamino)-cyclopentyl]-6-((S)-1-hydroxymethyl-2-phenyl-ethylamino)-9H-purin-2-yl]-prop-2-ynyl}-carbamic acid tert-butyl ester (Intermediate XA) is dissolved in 1.25 M HCl in MeOH. After stirring at RT for 3 days, the solvent is removed in vacuo to yield the title compound. This is used in the next step without further purification.

reactant | {3-[9-[(1R,2S,3R,4S)-2,3-Dihydroxy-4-(2-hydroxy-acetylamino)-cyclopentyl]-6-((S)-1-hydroxymethyl-2-phenyl-ethylamino)-9H-purin-2-yl]-prop-2-ynyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC#CC1=NC(=C2N=CN(C2=N1)[C@H]1[C@@H]([C@@H]([C@H](C1)NC(CO)=O)O)O)N[C@@H](CC1=CC=CC=C1)CO)=O | C29H37N7O7
solvent | HCl | 1.25 M | Cl | ClH
solvent | MeOH | CO | CH4O
product | N-{(1S,2R,3S,4R)-4-[2-(3-Amino-prop-1-ynyl)-6-((S)-1-hydroxymethyl-2-phenyl-ethylamino)-purin-9-yl]-2,3-dihydroxy-cyclopentyl}-2-hydroxy-acetamide | NCC#CC1=NC(=C2N=CN(C2=N1)[C@H]1[C@@H]([C@@H]([C@H](C1)NC(CO)=O)O)O)N[C@@H](CC1=CC=CC=C1)CO | C24H29N7O5
